2172-10-28 08:41:00 Physician Resident Progress Note
Chief Complaint: MVC, neck pain, back pain, knee pain, abdominal pain
   24 Hour Events:
 MULTI LUMEN - START [**2172-10-27**] 08:34 PM
 ARTERIAL LINE - START [**2172-10-28**] 02:00 AM
   admit to ICU, nsgy following, pt had Hct drop, received 4 U PRBC and 2
   U FFP with no response to in Hct (in fact slightly worsened), c/o inc
   abd pain so CT abd. con't aggressive resusc w/ blood and FFP. Pt Hct
   worsened, c/o inc abd pain, so re-scan CT abd = liver lac, large
   hemoperitineum (on retrospective review of OSH CT had the lac and
   hematoma), more aggressive resusc w/ PRBC/FFP/cryo/plt. Also, worsening
   resp function and [**Name (NI) **] pt intubated. taken to IR.
   History obtained from [**Hospital 19**] Medical records
   Patient unable to provide history: Sedated, Encephalopathy
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2172-10-28**] 02:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: NPO
   Respiratory: Dyspnea
   Gastrointestinal: Abdominal pain, Nausea
   Musculoskeletal: back pain
   Endocrine: Hyperglycemia
   Heme / Lymph: Anemia, Coagulopathy
   Pain: No pain / appears comfortable
   Pain location: was c/o abd pain, intubated/sedated
   Flowsheet Data as of  [**2172-10-28**] 08:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 97 (87 - 120) bpm
   BP: 108/57(71) {74/42(51) - 156/81(105)} mmHg
   RR: 20 (14 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
           Total In:
                                                                  8,455 mL
                                                                  7,718 mL
   PO:
           TF:
   IVF:
                                                                  2,531 mL
                                                                  3,962 mL
   Blood products:
                                                                    924 mL
                                                                  3,686 mL
   Total out:
                                                                    136 mL
                                                                    161 mL
   Urine:
                                                                    136 mL
                                                                    161 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  8,319 mL
                                                                  7,557 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 10 cmH2O
   Plateau: 17 cmH2O
   SpO2: 100%
   ABG: 7.34/36/127/18/-5
   Ve: 12.2 L/min
   PaO2 / FiO2: 127
   Physical Examination
   General Appearance: intubated/sedated
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Diminished: R base)
   Abdominal: Tender: diffusely
   Extremities: Right: Trace, Left: Trace
   Skin:  Cool
   Neurologic: Responds to: Tactile stimuli, Movement: Purposeful,
   Sedated, Tone: Not assessed, prior to intubation deteriorated from
   followin directions and to more obtunded with inc [**Year (4 digits) **]
   Labs / Radiology
   83 K/uL
   7.4 g/dL
   155 mg/dL
   2.4 mg/dL
   18 mEq/L
   5.2 mEq/L
   31 mg/dL
   110 mEq/L
   142 mEq/L
   20.9 %
   11.3 K/uL
        [image002.jpg]
                            [**2172-10-27**]  06:01 PM
                            [**2172-10-27**]  09:51 PM
                            [**2172-10-27**]  11:00 PM
                            [**2172-10-28**]  01:47 AM
                            [**2172-10-28**]  02:01 AM
                            [**2172-10-28**]  06:44 AM
                            [**2172-10-28**]  06:56 AM
   WBC
   7.7
   9.9
   11.3
   Hct
   24.3
   24.7
   22.6
   20.9
   Plt
   119
   69
   83
   Cr
   2.0
   2.2
   2.4
   TCO2
   10
   13
   20
   Glucose
   233
   212
   155
   Other labs: PT / PTT / INR:17.9/43.5/1.6, ALT / AST:35/64, Alk Phos / T
   Bili:59/1.3, Fibrinogen:182 mg/dL, Lactic Acid:4.2 mmol/L, Albumin:2.0
   g/dL, LDH:287 IU/L, Ca++:7.8 mg/dL, Mg++:2.3 mg/dL, PO4:5.7 mg/dL
   Assessment and Plan
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 COAGULOPATHY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 TRAUMA, S/P
   ASSESSMENT AND PLAN:  54 yo M, s/p MVC with above injuries, h/o etoh
   cirrhossis anticoagulated on coumadin [**1-18**] clotted TIPS
   NEUROLOGIC:  Has had GCS 14/15 throughout, some level of baseline
   hepatic encephalopathy, but A/O x3 and appropriate. Then became more
   obtunded with inc [**Month/Day (2) **] prior to intubation, now intubated/sedated pain:
   fentanyl prn
   neuro checks q4
   CARDIOVASCULAR:  BP trending down throughout day, now BPs running
   120's. P 98. changes. guiac neg, ? small clot in NG but lavage x 2
   clear. + liver laceration. Con't aggressive resusc.  Angio for embolism
   of liver bleeding.   Coorecr5 coags.   Factor 7a
   PULMONARY: intubated for inc [**Month/Day (2) **].
   GI / ABD:  GI onboard. iv PPI, no octreotide. Ammonia level 77, no
   asterixis. will restart liver meds.  liver laceration, taken emergently
   to IR post resusc
   NUTRITION:  NPO
   RENAL: basline mild CRI, will give bicarb/fluid to aid w/ contrast
   nephropathy, Cr trending up and UOP borderline.
   HEMATOLOGY:  Hct dropped 24 to 22 after 4 U, will con't
   PRBC/FFP/cryo/plt/vitK, holding on factor replacement given HD
   stability. To IR for liver laceration. At the time of note, total
   resusc counts are: PRBC 8, FFP 6, plt 1, cryo 1 with resulting labs of
   Hct 20 and INR 1.6
   ENDOCRINE: [**Name (NI) **], pt with anion gap metabolic acidosis likely all lactic
   acidosis, no evidence of ketones in urine, though sugars elevated.
   ID: pt hypothermic, bear hugger, no Abx at this point
   LINES/TUBES/DRAINS: NGT, PIV, L femoral, foley, aline
   WOUNDS:  R knee
   IMAGING:  angio
   FLUIDS:  got bicarb and LR, getting blood
   CONSULTS: trauma, spine, GI
   BILLING DIAGNOSIS:
   ICU CARE:
   GLYCEMIC CONTROL:  [**Name (NI) **]
   PROPHYLAXIS:
   DVT -  anticoagulated/reversing, will need prophy discussed.   Boots
   STRESS ULCER -  PPI
   VAP BUNDLE -
   COMMUNICATIONS:
   ICU Consent:  P
   CODE STATUS:  full
   DISPOSITION:  ICU
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale, Comments: need better
   glycemic control
   Lines:
   18 Gauge - [**2172-10-27**] 07:00 PM
   Multi Lumen - [**2172-10-27**] 08:34 PM
   Arterial Line - [**2172-10-28**] 02:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Need for restraints reviewed
   Comments:
   Communication:  Comments: needs family ICU consent
   Code status: Full code
   Disposition:ICU

2172-10-31 05:01:00 Physician Resident Progress Note
Chief Complaint: MVC, neck pain, back pain, knee pain, abdominal pain
   24 Hour Events:
 PARACENTESIS - At [**2172-10-30**] 04:03 PM
   2+ liters of bloody ascites drained. fluid sent for culture
 INVASIVE VENTILATION - STOP [**2172-10-31**] 03:00 AM
   gave winRho, lasix gtt w/ goal -200/h, consider start tf [**10-31**].
   underwent paracentesis, check q4 hct after. recheck bladder P at 17.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2172-10-31**] 12:24 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Propofol - 10 mcg/Kg/min
   Furosemide (Lasix) - 12 mg/hour
   Other ICU medications:
   Fentanyl - [**2172-10-30**] 05:15 PM
   Pantoprazole (Protonix) - [**2172-10-30**] 07:42 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: NPO
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2172-10-31**] 05:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37
C (98.6
   HR: 69 (69 - 90) bpm
   BP: 125/59(80) {118/50(74) - 157/77(103)} mmHg
   RR: 9 (6 - 13) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 108.9 kg (admission): 92.6 kg
   Height: 68 Inch
    CVP: 7 (3 - 16)mmHg
   Bladder pressure: 17 (17 - 27) mmHg
   Total In:
                                                                  1,510 mL
                                                                    293 mL
   PO:
   TF:
   IVF:
                                                                  1,360 mL
                                                                    213 mL
   Blood products:
   Total out:
                                                                  5,145 mL
                                                                    725 mL
   Urine:
                                                                  2,745 mL
                                                                    725 mL
   NG:
                                                                    400 mL
   Stool:
   Drains:
                                                                  2,000 mL
   Balance:
                                                                 -3,635 mL
                                                                   -432 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 971 (971 - 1,259) mL
   PS : 10 cmH2O
   RR (Spontaneous): 7
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 21 cmH2O
   SpO2: 96%
   ABG: 7.39/47/99.[**Numeric Identifier **]/29/2
   Ve: 7.4 L/min
   PaO2 / FiO2: 200
   Physical Examination
   General Appearance: No acute distress, vented/sedated
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Tactile stimuli,
   Movement: Purposeful, Sedated, Tone: Not assessed
   Labs / Radiology
   58 K/uL
   8.6 g/dL
   111 mg/dL
   2.5 mg/dL
   29 mEq/L
   4.4 mEq/L
   65 mg/dL
   108 mEq/L
   142 mEq/L
   24.1 %
   13.0 K/uL
        [image002.jpg]
                            [**2172-10-30**]  12:24 AM
                            [**2172-10-30**]  02:18 AM
                            [**2172-10-30**]  06:00 AM
                            [**2172-10-30**]  06:37 AM
                            [**2172-10-30**]  04:07 PM
                            [**2172-10-30**]  04:52 PM
                            [**2172-10-30**]  08:00 PM
                            [**2172-10-30**]  08:01 PM
                            [**2172-10-31**]  12:17 AM
                            [**2172-10-31**]  01:52 AM
   WBC
   17.8
   16.4
   13.0
   Hct
   25.0
   24.7
   33
   25.4
   24.6
   24.2
   24.1
   Plt
   54
   55
   58
   Cr
   2.6
   2.5
   2.5
   TCO2
   28
   28
   30
   Glucose
   138
   105
   103
   111
   Other labs: PT / PTT / INR:15.2/34.8/1.3, ALT / AST:35/34, Alk Phos / T
   Bili:70/1.6, Amylase / Lipase:52/44, Fibrinogen:182 mg/dL, Lactic
   Acid:1.1 mmol/L, Albumin:2.8 g/dL, LDH:287 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.6 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ELECTROLYTE & FLUID DISORDER, OTHER
 CERVICAL FRACTURE (WITHOUT SPINAL CORD INJURY)
 HEPATIC ENCEPHALOPATHY
 LIVER FUNCTION ABNORMALITIES
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RIB FRACTURE
 THORACIC / LUMBAR / SACRAL FRACTURE (TLS WITHOUT SPINAL CORD INJURY)
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 COAGULOPATHY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 TRAUMA, S/P
   ASSESSMENT AND PLAN:  54 yo M, s/p MVC with above injuries, h/o etoh
   cirrhossis anticoagulated on coumadin [**1-18**] clotted TIPS
   NEUROLOGIC:  Has had GCS 14/15 throughout, some level of baseline
   hepatic encephalopathy, intubated/sedated. NSGY wants MRI c-spine when
   possible to eval dens fx.
   pain: fentanyl prn
   neuro checks q4
   CARDIOVASCULAR:  HR and BP stable
   PULMONARY: intubated, cont to wean vent
   GI / ABD: IV PPI secondary to bloody NGT output, Ammonia level 77, cont
   lactulose.  liver laceration - transfuse as needed. f/u ammonia given
   concern for clotting off TIPS. para drained 1.6 L, sent for cx, was
   seroanguinous fluid, mostly blood. bladder P [**Month (only) 453**] to 17 w/ para, no
   change in vent or UOP
   NUTRITION:  Begin TF
   RENAL: basline mild CRI, ARF ? secondary to contrast nephropathy, cont
   monitor, Cr plateaud at 2.5
   HEMATOLOGY:  Hct checks stable at 24. bleeding stable s/p Factor VII,
   will con't PRBC's as needed. Anticoagulation reversed.
   ENDOCRINE: RISS
   ID: afebrile, h/o SBP covered w/ bactrim in past, will cover w/ cipro
   IV until better absorption PO, then resume bactrim
   LINES/TUBES/DRAINS: ETT, NGT, PIV, L femoral, foley, aline
   WOUNDS:  R knee
   IMAGING:
   FLUIDS:  none
   CONSULTS: trauma, spine, GI
   BILLING DIAGNOSIS:
   ICU CARE:
   GLYCEMIC CONTROL:  RISS
   PROPHYLAXIS:
   DVT -  Boots  consider starting sc heparin
   STRESS ULCER -  PPI
   VAP BUNDLE -  covered
   COMMUNICATIONS:
   ICU Consent:  obtained
   CODE STATUS:  full
   DISPOSITION:  ICU
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   Arterial Line - [**2172-10-28**] 02:00 AM
   20 Gauge - [**2172-10-29**] 09:36 AM
   Multi Lumen - [**2172-10-29**] 11:00 AM
   16 Gauge - [**2172-10-29**] 12:28 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU